US09428509B2
2-Amino-5-bromo-3-fluorophenol
To a suspension of 4-bromo-2-fluoro-6-methoxyaniline hydrobromide (1 equiv) in DCM (0.3 M) was added boron tribromide (2 equiv) in DCM at 0° C. The reaction mixture was stirred at room temperature for 2 h. After quenching, the reaction mixture was diluted with DCM then purified by silica gel chromatography (0 to 100% ethyl acetate in hexane) to give the title compound (92% yield). MS (ESI) m/z 205.9 [M+H]+.

reactant | 4-bromo-2-fluoro-6-methoxyaniline hydrobromide | 1 equiv | Br.BrC1=CC(=C(N)C(=C1)OC)F
reactant | boron tribromide | 2 equiv | B(Br)(Br)Br | BBr3
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
product | 2-Amino-5-bromo-3-fluorophenol | 92% yield | NC1=C(C=C(C=C1F)Br)O | C6H5BrFNO
